### ISSUE TITLE
Prove binomial 10 5 = 252

### ISSUE THREAD

**Issue by yuxiliu-anu** [semorrison/2017-summer-students#33]
```
open nat


/- product, factorial -/
def product (f : ℕ → ℕ) : ℕ → ℕ
| 0 := f 0
| (succ m) := f (succ m) * (product m)
example (n m : ℕ) : product (λ _, n) m = n ^ (succ m) := 
begin
    induction m with m Hm,
      unfold product, 
      simp,
    unfold product,
    rw Hm, unfold pow, simp
end

def product_from_to (f : ℕ → ℕ) (m n : ℕ) : ℕ :=
  if (m > n) 
  then 1
  else product (λ x, f (x + m)) (n - m)
  -- unknown identifier?

def fact : ℕ → ℕ := product_from_to id 1

/- binomial coefficients -/
def binom (n m : ℕ) : ℕ :=
  if (n < m)
  then 0
  else (product_from_to id (n - m + 1) n) / (product_from_to id 1 m)

example : binom 10 5 = 252 := by admit
```
If I use `by refl`, I get error: 
```
deep recursion was detected at 'replace' 
(potential solution: increase stack space in your system)
```

same problem with
`example : fact 10 = 3628800 := by refl`

I think Lean is unhappy doing the recursion in `product_from_to`. How to deal with such problems?

**Comment by semorrison** [comment]
I've just uploaded something that shows how to do this. There'll be a better solution soon, as well, thanks to a helpful Lean developer. :-)

**Comment by semorrison** [comment]
(Do note that I changed some `succ`s in the original code to `+1`s, as the `norm_num` tactic doesn't know about `succ`.)

**Comment by semorrison** [comment]
Also, this relies on the tactic `norm_num` in `mathlib`, so you'll have to run `leanpkg build` in the repository (and ignore all the error messages!) before this works.
